* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
* statistics {
*   mismatch {
*   }
* }
* 4-terminal Vertical Parallel Plate Capacitor /w LI-M4 fingers and M5 Shield
* 3-terminal Vertical Parallel Plate Capacitor /w LI-M5 Shield
* This is the ~100fF fixed capacitor model
* Layout: sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1m5_floatm4
.subckt  sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1m5_floatm4 c0 c1 b m5
+ 
.param  mult = 1.0
+ 
+ ctot_a = {97.328e-15*sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1__cor+1.03787/sqrt(mult/0.35298)*0.00284*97.328e-15*sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1__cor*sky130_fd_pr__model__cap_vpp_only_p__slope}
+ cli2s = {7.433e-15*cli2s_vpp}
+ rat_m3 = 0.1539
+ rat_m2 = 0.4074
+ rat_m1 = 0.4025
+ rat_m12li = 0.0362
+ cap_m3 = {rat_m3*ctot_a}
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ cap_m12li = {rat_m12li*ctot_a}
+ cm5_c0 = {3.20e-15*c0m5m3_vpp}
+ cm5_c1 = {1.97e-15*c1m5m3_vpp}
+ lm3 = 5.05
+ wm3 = 0.30
+ nfm3 = 34.0
+ nvia2_c0 = 104.0
+ nvia2_c1 = 49.0
+ lm2 = 5.100
+ wm2 = 0.140
+ nfm2 = 76.0
+ nvia_c0 = 124.0
+ nvia_c1 = 62.0
+ lm1 = 5.215
+ wm1 = 0.140
+ nfm1 = 72.0
+ nmcon = 116.0
ccmvpp11p5x11p7_m3_lim5shield m5 c0  c = {cm5_c0}
cm5_1 m5 c1 c = {cm5_c1}
rm31 c0 z1 r = {rm3*lm3/wm3*(1/3)*(1/nfm3)}
cm3 z1 c1 c = {cap_m3}
rvia2_1 c0 d0 r = {rcvia2/nvia2_c0}
rvia2_2 c1 d1 r = {rcvia2/nvia2_c1}
rm21 d0 a1 r = {rm2*lm2/wm2*(1/3)*(1/nfm2)}
cm2 a1 d1 c = {cap_m2}
rvia1 d0 e0 r = {rcvia/nvia_c0}
rvia2 d1 e1 r = {rcvia/nvia_c1}
rm11 e0 b1 r = {rm1*lm1/wm1*(1/3)*(1/nfm1)}
cm1 b1 e1 c = {cap_m1}
rmcon e0 f0 r = {rcl1/nmcon}
rliw f0 g0 r = {rl1}
cli2b g0 b c = {cli2s}
cm12li e1 g0 c = {cap_m12li}
.ends sky130_fd_pr__cap_vpp_11p5x11p7_m1m2m3_shieldl1m5_floatm4
